US08685969B2
3. (E)-4-(Dimethylamino)-N-(2-fluoro-3-(2-nitrovinyl)phenyl)benzamide
A mixture of 4-(dimethylamino)-N-(2-fluoro-3-formylphenyl)benzamide (1.83 g, the crude product from previous step), nitromethane (0.859 mL, 15.98 mmol), and ammonium acetate (1.232 g, 15.98 mmol) in acetic acid (25 mL, 52.4 mmol) was heated at 100° C. for 2 hr. Acetic acid was removed under vacuum. To the residue was added CH2Cl2 (60 mL) and water (60 mL) and the mixture was basified with solid Na2CO3 to pH 9. The organic layer was separated, and the aqueous layer was extracted with CH2Cl2 (3×50 mL). The combined organic phase was washed with saturated NaHCO3 solution (40 mL) and brine (40 mL), and dried over anhydrous MgSO4. The desired product (0.786 g, 31% over 2 steps) was isolated by ISCO (120 g silica gel, 0-5% ethyl acetate/CH2Cl2) as a red solid.

reactant | 4-(dimethylamino)-N-(2-fluoro-3-formylphenyl)benzamide | CN(C1=CC=C(C(=O)NC2=C(C(=CC=C2)C=O)F)C=C1)C | C16H15FN2O2
reactant | nitromethane | 15.98 mmol, 0.859 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 15.98 mmol, 1.232 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 52.4 mmol, 25 mL | C(C)(=O)O | C2H4O2
product | (E)-4-(Dimethylamino)-N-(2-fluoro-3-(2-nitrovinyl)phenyl)benzamide | 0.786 g, 31% | CN(C1=CC=C(C(=O)NC2=C(C(=CC=C2)\C=C\[N+](=O)[O-])F)C=C1)C | C17H16FN3O3
